US08026261B2
2-Difluoromethyl-1-ethyl-5-hydroxy-1H-pyridin-4-one
A mixture of 5-benzyloxy-2-difluoromethyl-1-ethyl-1H-pyridin-4-one (2.00 g, 7.16 mmol) and 10% Pd/C (200 mg) in methanol (75 mL) was hydrogenated under 15.0 psi pressure in a hydrogen atmosphere in a Parr apparatus for 23 min. The reaction mixture was worked up as described above. The title compound (0.87 g, 64%) was obtained as an off-white solid. HPLC purity (peak area percent) of the compound is 97.7% at λ=280 nm using HPLC Method 1 as described above. 1H NMR (400 MHz, DMSO-D6) δ (ppm): 7.61 (s, 1H), 7.15 (t, J=52.7 Hz, 1H, CF2H), 6.46 (s, 1H), 4.03 (q, J=7.0 Hz, 2H, N—CH2), 1.31 (t, J=7.1 Hz, 3H, CH3); MS-ESI (m/z): 190.2 [M+1]+, 142.2 (100%); Anal. Calcd. for C8H9F2NO2: C, 50.80; H, 4.80; N, 7.40%. Found: C, 50.64; H, 4.85; N, 7.38%.

reactant | 5-benzyloxy-2-difluoromethyl-1-ethyl-1H-pyridin-4-one | 7.16 mmol, 2.00 g | C(C1=CC=CC=C1)OC=1C(C=C(N(C1)CC)C(F)F)=O | C15H15F2NO2
reactant | hydrogen | [H][H] | H2
solvent | methanol | 75 mL | CO | CH4O
catalyst | Pd/C | 200 mg | [Pd] | Pd
product | 2-Difluoromethyl-1-ethyl-5-hydroxy-1H-pyridin-4-one | 0.87 g, 64% | FC(C=1N(C=C(C(C1)=O)O)CC)F | C8H9F2NO2
